US06265575B1
Part B. 4-(1-Pyrrolidinyl)butanol
4-Oxo-4-(1-pyrrolidinyl)butyric acid (0.30 g; 1.75 mmol) in 10 mL of THF in an argon-filled flask was treated with lithium aluminum hydride (0.17 g; 4.38 mmol) at 70° C. for 4 h. After cooling the mixture to room temperature, hydrolysis was effected by addition of 0.17 mL each of water and 5 N NaOH, followed by 0.51 mL of water. Stirring was continued for 0.5 h. The mixture was filtered and concentrated under reduced pressure to give the title compound as a colorless oil (0.21 g; 84% yield).

reactant | 4-Oxo-4-(1-pyrrolidinyl)butyric acid | 1.75 mmol, 0.30 g | O=C(CCC(=O)O)N1CCCC1 | C8H13NO3
reactant | lithium aluminum hydride | 4.38 mmol, 0.17 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.17 mL | O | H2O
reactant | NaOH | 5 N | [OH-].[Na+]
reactant | water | 0.51 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(1-Pyrrolidinyl)butanol | 0.21 g, 84% yield | N1(CCCC1)CCCCO | C8H17NO
